US07576091B2
(2-Methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-carbamic acid but-3-enyl ester
To 2-methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-ylamine (100 mg, 0.46 mmol) in pyridine (3 mL) was added 3-butenyl chloroformate (68 μL, 74 mg, 0.55 mmol). The mixture was stirred at room temperature for 16 h. Ammonium chloride solution was added (50 mL) and the product was extracted with CH2Cl2 (3×50 mL). The organic extracts were combined, dried, filtered, and concentrated under vacuum to give a yellow solid. Crystallisation from EtOAc afforded the pure title product as yellow crystals (122 mg, 84%): mp 204° C. (dec). Anal. RP-HPLC: tR 14.1 min (0-60% MeCN, purity 100%). 1H-NMR (CDCl3): δ 8.36 (s, 1H, Py-H), 7.49 (brs, 1H, NH), 5.90-5.75 (m, 1H, CH), 5.19-5.07 (m, 2H, CH2), 4.27 (t, 2H, J 6.6, CH2), 3.06 (m, 4H, CH2—CH2), 2.77 (s, 3H, CH3), 2.45 (m, 2H, CH2). MS (ESI+): m/z 339.00 (M+Na)+.

reactant | 2-methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-ylamine | 0.46 mmol, 100 mg | CC=1SC2=C(CCC=3C=NC(=NC23)N)N1 | C10H10N4S
reactant | 3-butenyl chloroformate | 0.55 mmol, 68 μL, 74 mg | ClC(=O)OCCC=C | C5H7ClO2
reactant | Ammonium chloride | [Cl-].[NH4+]
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | (2-Methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-carbamic acid but-3-enyl ester | 122 mg, 84% | C(CC=C)OC(NC1=NC=2C3=C(CCC2C=N1)N=C(S3)C)=O | C15H16N4O2S
